US05482960
1-Benzo-[1,3]dioxol-5-yl-3-phenylsulfanyl-1H-indole-2 -carboxylic acid:
The title compound was prepared as shown in Scheme 1, using Indole-2-carboxylic acid (2.00 g, 0.0124 moles), phenyl disulfide (2.70 g, 0.0123 moles) and NaH (3 equiv.) in DMF (40 ml) at 60° C. for 16 hours. The adduct was dissolved in DMF, treated with copper(II) oxide (1 equiv.), 4-iodo-1,2-methylenedioxybenzene (1.3 equiv.) and KOH (2 equiv.). Heating for 16 hours at 110° C. afforded the required product. Analysis cal'd for C22H15NSO4: C, 67.85; H, 3.88; N, 3.60; found: C, 67.80; 3.87; N, 3.54. MS(CI) m/e 389. m.p. 182.0°-183.0° C.

reactant | Indole-2-carboxylic acid | 0.0124 moles, 2.00 g | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | phenyl disulfide | 0.0123 moles, 2.70 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | NaH | 3 equiv. | [H-].[Na+]
reactant | 4-iodo-1,2-methylenedioxybenzene | 1.3 equiv. | IC1=CC2=C(C=C1)OCO2 | C7H5IO2
reactant | KOH | 2 equiv. | [OH-].[K+]
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
catalyst | copper(II) oxide | 1 equiv. | [Cu]=O
product | 1-Benzo-[1,3]dioxol-5-yl-3-phenylsulfanyl-1H-indole-2 -carboxylic acid | O1COC2=C1C=CC(=C2)N2C(=C(C1=CC=CC=C21)SC2=CC=CC=C2)C(=O)O | C22H15NO4S
